US04363807
7-(2-Phenylacetamido)-3-hydroxymethylcepham-4-carboxylic acid (4 g.), dimethylsulfoxide (20 ml) and acetic anhydride (20 ml.) were treated in a similar manner to that of Example 4 (2) to give 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylic acid (2 g.).

reactant | 7-(2-Phenylacetamido)-3-hydroxymethylcepham-4-carboxylic acid | 4 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)O)C1=O | C16H18N2O5S
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylic acid | 2 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)O)C1=O | C18H18N2O6S
